US05260323
Di-(methoxycarbonylmethyl) pyridine-2,4-dicarboxylate N-oxide
From 1 g of di-(methoxycarbonylmethyl) pyridine-2,4-dicarboxylate and 1.1 g of MCPBA.

reactant | di-(methoxycarbonylmethyl) pyridine-2,4-dicarboxylate | 1 g | N1=C(C=C(C=C1)C(=O)OCC(=O)OC)C(=O)OCC(=O)OC | C13H13NO8
reactant | MCPBA | 1.1 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | Di-(methoxycarbonylmethyl) pyridine-2,4-dicarboxylate N-oxide | [N+]=1(C(=CC(=CC1)C(=O)OCC(=O)OC)C(=O)OCC(=O)OC)[O-] | C13H13NO9
